US09108966B2
A solution of (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbaldehyde (510 mg, 1.96 mmol), hydroxylamine hydrochloride (158 mg, 2.27 mmol) and pyridine (621 mg, 7.85 mmol) in EtOH (15 mL) was stirred at rt for 2 hrs. The reaction mixture was then concentrated and the residue was diluted with DCM (25 mL), washed with water (3×), saturated sodium chloride, dried over Na2SO4 and concentrated. The residue was purified by silica gel column chromatography (gradient elution 3:1 to 3:2 petroleum ether/EtOAc) to afford (E)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbaldehyde oxime (228 mg, 42%) as a white solid. ESI-MS (EI+, m/z): 276 [M+H]+.

reactant | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbaldehyde | 1.96 mmol, 510 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C=O | C14H16N2O3
reactant | hydroxylamine hydrochloride | 2.27 mmol, 158 mg | Cl.NO
reactant | pyridine | 7.85 mmol, 621 mg | N1=CC=CC=C1 | C5H5N
solvent | EtOH | 15 mL | CCO | C2H6O
product | (E)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbaldehyde oxime | 228 mg, 42% | C(C1=CC=CC=C1)ON1C2CCC(N(C1=O)C2)/C=N/O | C14H17N3O3
